US05994312
(R)-2-Bromo-5-phthalimidopentanoic acid
A solution of D-ornithine hydrochloride (35 g, 0.208 mol) in water (350 ml) was treated with copper (II) sulphate (16.6 g, 0.104 mol). 5M Potassium hydroxide (ca. 40 ml) was added to pH 3 then N-carboethoxyphthalimide (45.5 g, 0.208 mol) was added and the pH maintained at 9-10 by the addition of 5M potassium hydroxide (ca. 55 ml). After 2 h, 48% hydrobromic acid was added to pH 0.4 (ca. 77 ml) and any resulting precipitate removed by filtration. The filtrate was cooled to <5° C., then treated with further hydrobromic acid (152 ml) and potassium bromide (59 g, 0.5 mol). The mixture was then treated dropwise over 45 min with a solution of sodium nitrite (28.6 g, 0.41 mol) in water (275 ml) whilst maintaining a temperature of <5° C. The mixture was then stirred at <5° C. overnight. The resulting precipitate was then removed by filtration, dissolved in ethyl acetate (400 ml) and the solution washed with water (2×200 ml) and brine (200 ml), dried (MgSO4) and evaporated in vacuo to provide the title compound (40.6 g, 47%) as a cream solid.

reactant | D-ornithine hydrochloride | 0.208 mol, 35 g | Cl.N[C@H](CCCN)C(=O)O
reactant | Potassium hydroxide | 5M, ca. 40 ml | [OH-].[K+]
reactant | N-carboethoxyphthalimide | 0.208 mol, 45.5 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
reactant | potassium hydroxide | 5M, ca. 55 ml | [OH-].[K+]
reactant | hydrobromic acid | Br | BrH
reactant | hydrobromic acid | 152 ml | Br | BrH
reactant | potassium bromide | 0.5 mol, 59 g | [Br-].[K+]
reactant | sodium nitrite | 0.41 mol, 28.6 g | N(=O)[O-].[Na+]
solvent | water | 350 ml | O | H2O
solvent | water | 275 ml | O | H2O
catalyst | copper (II) sulphate | 0.104 mol, 16.6 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | (R)-2-Bromo-5-phthalimidopentanoic acid | 40.6 g, 47% | Br[C@@H](C(=O)O)CCCN1C(C=2C(C1=O)=CC=CC2)=O | C13H12BrNO4
